US07442839B2
iv) N-{5-((1R)-1-Hydroxy-2-{[(1S)-2-hydroxy-1-phenylethyl]amino}ethyl)-2-[(phenylmethyl)oxy]phenyl}-N-(phenylmethyl)methanesulfonamide
A solution of N-{5-(bromoacetyl)-2-[(phenylmethyl)oxy]phenyl}-N-(phenylmethyl) methanesulfonamide (570 mg) in THF (15 ml) was treated with N,N-diisopropylethylamine (0.41 ml) and (S)-(+)-2-phenylglycinol (191.8 mg). The mixture was stirred at room temperature for 5 h. The solvent was removed in vacuo and the resulting solid was suspended in dry MeOH (15 ml). The resulting suspension was cooled to 0°, treated with calcium carbonate (359 mg) and stirred for 0.5 h. The reaction mixture was treated with NaBH4 (88.8 mg), portionwise at 0° and was then allowed to warm to room temperature and stirred for 64 h. The mixture was concentrated in vacuo and the residue was partitioned between EtOAc and water. The organic phase was dried (MgSO4) and concentrated in vacuo. The mixture was purified by column chromatography (SPE, gradient 0 to 15% [MeOH-ammonia (10:1)] in DCM) to afford the title compound (360 mg).

reactant | N-{5-(bromoacetyl)-2-[(phenylmethyl)oxy]phenyl}-N-(phenylmethyl) methanesulfonamide | 570 mg | BrCC(=O)C=1C=CC(=C(C1)N(S(=O)(=O)C)CC1=CC=CC=C1)OCC1=CC=CC=C1 | C23H22BrNO4S
reactant | N,N-diisopropylethylamine | 0.41 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (S)-(+)-2-phenylglycinol | 191.8 mg | C1(=CC=CC=C1)[C@H](N)CO | C8H11NO
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | N-{5-((1R)-1-Hydroxy-2-{[(1S)-2-hydroxy-1-phenylethyl]amino}ethyl)-2-[(phenylmethyl)oxy]phenyl}-N-(phenylmethyl)methanesulfonamide | 360 mg | O[C@@H](CN[C@H](CO)C1=CC=CC=C1)C=1C=CC(=C(C1)N(S(=O)(=O)C)CC1=CC=CC=C1)OCC1=CC=CC=C1 | C31H34N2O5S
